US09359362B2
(rac)-7-(4-Cyanophenyl)-2-(methoxymethyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro-[1,2,4]triazolo[1,5-a]pyrimidine-6-carbonitrile
Under an atmosphere of argon protective gas, (rac)-7-(4-cyanophenyl)-2-(methoxymethyl)-5-methyl-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carbonitrile (35 mg, 114 μmol) was stirred in abs. dichloromethane (30 ml) with molecular sieve (0.5 g, 4 Å) for 1 h. 3-(Trifluoromethyl)phenylboronic acid (65 mg, 343 μmol, 3 eq.), anhydrous copper(II) acetate (62.3 mg, 343 μmol, 3 eq.), abs. pyridine (25 μl) and triethylamine (35 mg, 343 μmol, 3 eq.) were then added, and the mixture was stirred at RT for 12 h. More molecular sieve (0.5 g, 4 Å), 3-(trifluoromethyl)phenylboronic acid (22 mg, 114 μmol, 1 eq.), anhydrous copper(II) acetate (21 mg, 114 μmol, 1 eq.) and abs. pyridine (829 μl) were then added, and the mixture was stirred at RT for a further 3 d. The reaction mixture was then filtered through kieselguhr, the filter residue was washed with dichloromethane and pyridine and the filtrate was concentrated to dryness. The residue was purified by preparative HPLC (Gromsil C18 column, 10 μm; mobile phase: acetonitrile/water+0.1% TFA 10:90→90:10). The product was obtained as a colorless solid (4.4 mg, 9% of theory).

reactant | (rac)-7-(4-cyanophenyl)-2-(methoxymethyl)-5-methyl-4,7-dihydro[1,2,4]triazolo[1,5-a]pyrimidine-6-carbonitrile | 114 μmol, 35 mg | C(#N)C1=CC=C(C=C1)C1C(=C(NC=2N1N=C(N2)COC)C)C#N | C16H14N6O
reactant | dichloromethane | 30 ml | ClCCl | CH2Cl2
reactant | 3-(Trifluoromethyl)phenylboronic acid | 343 μmol, 65 mg, 3 eq. | FC(C=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O2
reactant | triethylamine | 343 μmol, 35 mg, 3 eq. | C(C)N(CC)CC | C6H15N
reactant | 3-(trifluoromethyl)phenylboronic acid | 114 μmol, 22 mg, 1 eq. | FC(C=1C=C(C=CC1)B(O)O)(F)F | C7H6BF3O2
catalyst | copper(II) acetate | 343 μmol, 62.3 mg, 3 eq. | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
catalyst | copper(II) acetate | 114 μmol, 21 mg, 1 eq. | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | pyridine | 829 μl | N1=CC=CC=C1 | C5H5N
solvent | pyridine | 25 μl | N1=CC=CC=C1 | C5H5N
product | (rac)-7-(4-Cyanophenyl)-2-(methoxymethyl)-5-methyl-4-[3-(trifluoromethyl)phenyl]-4,7-dihydro-[1,2,4]triazolo[1,5-a]pyrimidine-6-carbonitrile | C(#N)C1=CC=C(C=C1)C1C(=C(N(C=2N1N=C(N2)COC)C2=CC(=CC=C2)C(F)(F)F)C)C#N | C23H17F3N6O
